US06268387B1
3-[3-(3,4-Dimethoxyphenyl)-thioureido]-4-methoxy-N-phenyl-benzamide
A mixture of 3-amino-4-methoxy-N-phenyl-benzamide (0.972 g, 4.0 mmol), 3,4-dimethoxyphenyl isothiocyanate (0.787 g, 4.0 mmol), and ethyl acetate (25 mL) was heated briefly to 50° C. and then allowed to stand overnight at room temperature. The reaction mixture was diluted with ethyl acetate (˜100 mL), heated to 80° C. briefly, then allowed to stand 5 days at room temperature. The precipitate was filtered off to afford the product (0.552 g); m.p. 170-171° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.0 mmol, 0.972 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 3,4-dimethoxyphenyl isothiocyanate | 4.0 mmol, 0.787 g | COC=1C=C(C=CC1OC)N=C=S | C9H9NO2S
solvent | ethyl acetate | ˜100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 3-[3-(3,4-Dimethoxyphenyl)-thioureido]-4-methoxy-N-phenyl-benzamide | 0.552 g | COC=1C=C(C=CC1OC)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)=S | C23H23N3O4S
